US06030967
10-(1,3-Benzodioxol-5-yl)-1,3-dioxolo[4,5-f]furo[3,4-b]quinolin-7(9H)-one
To a suspension of and lithium aluminum Hydride (LAH) (2.0 g) in THF (50 ml) was gradually added diethyl 8-(1,3-benzodioxol-5-yl)-1,3-dioxolo[4,5-f]quinoline-7,8-dicarboxylate (2.4 g) which was synthesized by the ordinally method described in E. A. Fehnel, Journal of organic Chemistry, vol.31, 2899-2092, 1966 or W. Ried, et al., Chemische Berichte, vol.85,204-216, at 0° C. The mixture was stirred for 1 hour at room temperature. To the reaction mixture was added water to stop the reaction, then the insoluble solid was filtered off with Celite. The filtrate was extracted with ethyl acetate and the extract was washed with water and dried with magnesium sulfate. The solvent was removed by distillation and the obtained residue was dissolved in ethanol (100 ml), and 10% Pd--C (2.5 g) was added thereto. The mixture was stirred overnight at room temperature. The catalyst was filtered off, and the solvent was removed by distillation. The obtained residue was dissolved in chloroform (300 ml) and manganese dioxide (20 g) was added thereto, then the mixture was stirred for 3 hours at room temperature. The manganese dioxide was filtered off with Celite and the filtrate was concentrated under reduced pressure. The obtained crude crystals were washed with diisopropyl ether and the entitled compound (0.9 g) was obtained. For elemental analysis, some of the entitle compound was recrystallized from THF.

reactant | lithium aluminum Hydride | 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl 8-(1,3-benzodioxol-5-yl)-1,3-dioxolo[4,5-f]quinoline-7,8-dicarboxylate | 2.4 g | O1COC2=C1C=CC(=C2)C2(C(N=C1C=CC3=C(C1=C2)OCO3)C(=O)OCC)C(=O)OCC | C23H21NO8
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 10-(1,3-Benzodioxol-5-yl)-1,3-dioxolo[4,5-f]furo[3,4-b]quinolin-7(9H)-one | 0.9 g | O1COC2=C1C=CC(=C2)C2=C1C(=NC3=CC=C4C(=C23)OCO4)C(OC1)=O | C19H11NO6
